US09120749B2
1-{4-[trans-4-Aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}-2-methylpropan-1-one dihydrochloride
To a suspension of 1-{4-[trans-4-Aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}-2-methylpropan-1-one (3.0 g, 6.4 mmol) in THF (50 mL) was added 3 M HCl (30 mL) and the reaction mixture was heated at 60° C. for 2 h. The reaction mixture was cooled and the precipitate was filtered to afford the desired product (4.7 g, 92%) as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 9.18 (bs, 1H), 8.49 (bs, 1H), 8.27 (d, J=8.8 Hz, 1H), 7.02 (d, J=8.8 Hz, 1H), 7.75 (bs, 2H), 4.54 (bs, 1H), 3.80-3.69 (m, 1H), 2.52 (bs, 2H), 2.29-2.22 (m, 2H), 1.94-1.81 (m, 2H), 1.75-1.62 (m, 2H), 1.24 (d, J=6.8 Hz, 6H); ESI MS m/z 472 [C25H27C12N3O2+H]+.

reactant | 1-{4-[trans-4-Aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}-2-methylpropan-1-one | 6.4 mmol, 3.0 g | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(C(C)C)=O | C25H27Cl2N3O2
reactant | HCl | 3 M, 30 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-{4-[trans-4-Aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}-2-methylpropan-1-one dihydrochloride | 4.7 g, 92% | Cl.Cl.N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(C(C)C)=O | InChI=1S/C25H27Cl2N3O2.2ClH/c1-13(2)24(31)19-12-29-22-8-3-14(15-10-20(26)25(32)21(27)11-15)9-18(22)23(19)30-17-6-4-16(28)5-7-17;;/h3,8-13,16-17,32H,4-7,28H2,1-2H3,(H,29,30);2*1H/t16-,17-;;
